US08349548B2
1.b 1,10-Bis-[9-(4-acetyl-phenyl)-6-(thiophene-2-carbonyl)-carbazol-3-yl]-decane-1,10-dione
To 1-(4-carbazol-9-yl-phenyl)-ethanone (5.00 g) in CH2Cl2 (200 mL) is added thiophenecarbonyl chloride (2.56 g) and AlCl3 (4.74 g) at 0° C. After stirring overnight at room temperature, sebacoyl chloride (2.09 g) and AlCl3 (2.57 g) are further added at 0° C. and the mixture is stirred at room temperature overnight. The reaction mixture is poured into ice-water, and the crude product is extracted twice with CH2Cl2. The combined organic layer is washed with H2O and brine, dried over MgSO4, and concentrated to give the residue, which is purified by washing with hot ethyl acetate. The structure of the product, which is obtained as an orange solid, is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 1.38-1.51 (m, 8H), 1.82 (quint, 4H), 2.73 (s, 6H), 3.11 (t, 4H), 7.23 (t, 2H), 7.47 (d, 2H), 7.51 (d, 2H), 7.70-7.77 (m, 8H), 8.06 (d, 2H), 8.13 (d, 2H), 8.27 (d, 4H), 8.79 (s, 2H), 8.82 (s, 2H).

reactant | 1-(4-carbazol-9-yl-phenyl)-ethanone | 5.00 g | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=CC=C(C=C1)C(C)=O | C20H15NO
reactant | thiophenecarbonyl chloride | 2.56 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | AlCl3 | 4.74 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | sebacoyl chloride | 2.09 g | C(CCCCCCCCC(=O)Cl)(=O)Cl | C10H16Cl2O2
reactant | AlCl3 | 2.57 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 1,10-Bis-[9-(4-acetyl-phenyl)-6-(thiophene-2-carbonyl)-carbazol-3-yl]-decane-1,10-dione | C(C)(=O)C1=CC=C(C=C1)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(CCCCCCCCC(=O)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(=O)C=1SC=CC1)C1=CC=C(C=C1)C(C)=O)=O)C(=O)C=1SC=CC1 | C60H48N2O6S2
